### PR TITLE
Some more lemmas for confluence

### PR DESCRIPTION
**Pull request by volodeyka**

### CODE REVIEW

File: transitionsystem.v [hunk 1]
```diff
@@ -378,20 +386,111 @@ Context (f : E -> E) (es1 es2 : exec_event_struct).
 
 Definition is_morph := fed es2 \o f =1 (edescr_map f) \o fed es1.
 
+Section Morphism.
+
+Hypothesis morph: is_morph.
+
+Lemma is_morph_lab e :
+  lab es2 (f e) = lab es1 e.
```
Comment (eupp) [inline transitionsystem.v:394]: Let's reverse the direction, i.e. `lab es1 e = lab es2 (f e)` (here and in the following lemmas related to `fpo`, `frf`, etc).
It's more easier to read, and in correspondence with the classical definition of morphism:
- `f (a + b) = f(a) + f(b)`
- `f (fpo es1 e) = fpo es2 (f e)`

File: transitionsystem.v [hunk 2]
```diff
@@ -378,20 +386,111 @@ Context (f : E -> E) (es1 es2 : exec_event_struct).
...
+
+Lemma is_morph_rf e :
+  frf es2 (f e) = f (frf es1 e).
+Proof.
+  move/(congr1 (@frf_prj _ _)): (morph e).
+  by rewrite frf_prj_edescr_map.
+Qed.
+
+Lemma is_morph_ica e1 e2 : 
+  ica es1 e1 e2 -> ica es2 (f e1) (f e2).
```
Comment (eupp) [inline transitionsystem.v:415]: This should hold in both directions?
I.e. `ica es1 =2 ica es2` ?

File: transitionsystem.v [hunk 3]
```diff
@@ -378,20 +386,111 @@ Context (f : E -> E) (es1 es2 : exec_event_struct).
...
+Qed.
+
+Lemma isoE f e1 e2 es1 es2: is_iso f es1 es2 -> 
+  ( 
+    (lab es2 (f e1) = lab es1 e1) *
+    ((fpo es2 (f e1) = f (fpo es1 e1)) *
+    (frf es2 (f e1) = f (frf es1 e1))) *
+    ((ca es2 (f e1) (f e2) = ca es1 e1 e2) *
+    (cf es2 (f e1) (f e2) = cf es1 e1 e2))
+  )%type.
```
Comment (eupp) [inline transitionsystem.v:484]: Do you need this lemma for rewriting? 
I.e. you use `rewrite ?isoE` to rewrite every function/relation under isomorphism?

**Review by eupp — APPROVED** [review]
